US07015233B2
N-(5-tert-butyl-2,3-dihydro-1H-inden-1-yl)-N′-1H-indazol-4-ylurea
Methyl 4-({[(5-tert-butyl-2,3-dihydro-1H-inden-1-yl)amino]carbonyl}amino)-1H-indazole-1-carboxylate (5.67 g, 14 mmol) in tetrahydrofuran (20 ml) was treated with A 5M solution of sodium hydroxide in methanol (8 ml, 40 mmol). After stirring for 30 minutes, the reaction mixture was diluted with water and filtered. The solid was air-dried and then treated with ethanolic HCl to provide the title compound as the hydrochloride salt. 1H NMR (DMSO-d6) δ 1.06 (t, 1.8H, EtOH), 1.27 (s, 9H), 1.75–1.88 (m, 1H), 2.40–2.48 (m, 1H), 2.76–2.88 (m, 1H), 2.90–3.01 (m, 1H), 3.44 (q, 1.2H, EtOH), 5.12 (m, 1H), 6.84 (br d, 1H), 7.05 (d, 1H), 7.20, (m, 1H), 7.26 (s, 2H), 7.31 (s, 1H), 7.69 (d, 1H), 8.10 (s, 1H), 8.70 (s, 1H); MS (ESI+): 349 (M+H)+; Elemental: Calculated for C21H24N4O.HCl.0.6EtOH.0.6H2O: C, 62.98; H, 7.09; N, 13.23. Found: C, 63.09; H, 6.97; N, 13.18.

reactant | Methyl 4-({[(5-tert-butyl-2,3-dihydro-1H-inden-1-yl)amino]carbonyl}amino)-1H-indazole-1-carboxylate | 14 mmol, 5.67 g | C(C)(C)(C)C=1C=C2CCC(C2=CC1)NC(=O)NC1=C2C=NN(C2=CC=C1)C(=O)OC | C23H26N4O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 40 mmol, 8 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(5-tert-butyl-2,3-dihydro-1H-inden-1-yl)-N′-1H-indazol-4-ylurea | C(C)(C)(C)C=1C=C2CCC(C2=CC1)NC(=O)NC1=C2C=NNC2=CC=C1 | C21H24N4O
